US07157464B2
Synthesis of 1-(2,4-Dichloro-5-methoxy-phenyl)-piperazine hydrochloride
To a solution of 530 mg (2.0 mmol) of 1-(3-Methoxyphenyl)piperazine dihydrochloride in 7 mL of acetic acid and 4 mL of water at 0° C. was added 700 mg (4.4 mmol) of N-chlorosuccinimide. The reaction was taken out of the ice/water bath after 2 hours, and allowed to stir overnight. After 12 hours, the reaction was concentrated to an oil in vacuo, and the oil was partitioned between ether and water. The phases were separated, the aqueous was basified with 1M NaOH, and was extracted with ethyl acetate. The ethyl acetate phase was washed once each with water and brine, dried over Na2SO4, filtered, and the filtrate was concentrated to an oil in vacuo. The oil was dissolved in a minimum volume of methanol, the solution was acidified with 5M HCl in isopropanol and was diluted with ethyl acetate to effect crystallization. The product was isolated by filtration. 1H NMR (D2O, 400 MHz) 7.38 (s, 1H), 6.72 (s, 1H), 3.78 (s, 3H), 3.32 (m, 4H), 3.19 (m, 4H) ppm.

reactant | 1-(3-Methoxyphenyl)piperazine dihydrochloride | 2.0 mmol, 530 mg | Cl.Cl.COC=1C=C(C=CC1)N1CCNCC1
reactant | N-chlorosuccinimide | 4.4 mmol, 700 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
solvent | water | 4 mL | O | H2O
product | 1-(2,4-Dichloro-5-methoxy-phenyl)-piperazine hydrochloride | Cl.ClC1=C(C=C(C(=C1)Cl)OC)N1CCNCC1 | InChI=1S/C11H14Cl2N2O.ClH/c1-16-11-7-10(8(12)6-9(11)13)15-4-2-14-3-5-15;/h6-7,14H,2-5H2,1H3;1H
